US07138425B2
d) 2-[2-Chloro-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15e), from 2-(3-amino-4-chlorophenyl)-5-phenylbenzoxazole (43 mg, 0.13 mmol) and 1,2,4-benzenetricarboxylic acid (26 mg, 0.13 mmol) the title compound was obtained (10 mg, 15%). 1H NMR (DMSO) δ 8.58(d, 1H), 8.48(dd, 1H), 8.38(m, 2H), 8.17(d, 1H), 8.08(d, 1H), 7.99(d, 1H), 7.88(d, 1H), 7.76(m, 3H), 7.50(m, 2H), 7.39(t, 1H). MS 492.8 m/z (M−H)−.

reactant | 2-(3-amino-4-chlorophenyl)-5-phenylbenzoxazole | 0.13 mmol, 43 mg | NC=1C=C(C=CC1Cl)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H13ClN2O
reactant | 1,2,4-benzenetricarboxylic acid | 0.13 mmol, 26 mg | C=1(C(=CC(=CC1)C(=O)O)C(=O)O)C(=O)O | C9H6O6
product | 2-[2-Chloro-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | ClC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C28H15ClN2O5
